US08283353B2
6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(tetrahydro-2H-pyran-4-yl)[1,2,3]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (438 mg), sodium hydrogen carbonate (706 mg) and dimethyl sulfoxide (3 mL) was stirred at 60° C. for 30 min, 4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (192 mg) was added, and the mixture was stirred at 90° C. for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (83 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (78 mg) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=70/30→30/70 (volume ratio)] and crystallized from diisopropyl ether to give the title compound as colorless crystals (137 mg, 64%).

reactant | hydroxylammonium chloride | 438 mg | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 706 mg | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | 4′-{[5-oxo-7-propyl-4-(tetrahydro-2H-pyran-4-yl)-4,5-dihydro[1,2,3]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 192 mg | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=NC2)C2CCOCC2 | C27H27N5O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(tetrahydro-2H-pyran-4-yl)[1,2,3]triazolo[1,5-a]pyrimidin-5(4H)-one | 137 mg, 64% | O=C1NC(=NO1)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=NC2)C2CCOCC2)=O | C28H28N6O4
